US07935688B2
(1) Synthesis of (3-chloro-5-fluoro-phenyl)-acetic Acid Methyl Ester
Trimethylsilyldiazomethane (2 M solution in diethyl ether, 0.199 mL, 0.398 mmol) was added to a solution of (3-chloro-5-fluoro-phenyl)acetic acid (50 mg, 0.265 mmol) in methanol (0.5 mL) and toluene (2 mL), and the mixture was stirred at room temperature for 10 minutes. Acetic acid was added to the reaction mixture to terminate the reaction, and then the mixture was concentrated under reduced pressure to give the target compound as a colorless oil (53 mg, 99%).

reactant | Trimethylsilyldiazomethane | 0.398 mmol, 2 M, 0.199 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (3-chloro-5-fluoro-phenyl)acetic acid | 0.265 mmol, 50 mg | ClC=1C=C(C=C(C1)F)CC(=O)O | C8H6ClFO2
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 0.5 mL | CO | CH4O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (3-chloro-5-fluoro-phenyl)-acetic Acid Methyl Ester | 53 mg, 99% | COC(CC1=CC(=CC(=C1)F)Cl)=O | C9H8ClFO2
